US04661486
6-(3,5-Dichloro-4-methylphenyl)-5-hydroxy-4,5-dihydro-2H-pyridazin-3-one (Compound No. 7)
A mixture of 2.77 g of 4-(3,5-dichloro-4-methylphenyl)-3-hydroxy-4-oxobutyric acid (prepared as described in Preparation 1), 0.5 g of hydrazine hydrate (100%) and 20 ml of ethanol was stirred at room temperature for 6 hours. The resulting white powder was then collected by filtration, to give 1.77 g (yield 65%) of the desired Compound No. 7, melting at 253°-256° C.

reactant | 4-(3,5-dichloro-4-methylphenyl)-3-hydroxy-4-oxobutyric acid | 2.77 g | ClC=1C=C(C=C(C1C)Cl)C(C(CC(=O)O)O)=O | C11H10Cl2O4
reactant | hydrazine hydrate | 0.5 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-(3,5-Dichloro-4-methylphenyl)-5-hydroxy-4,5-dihydro-2H-pyridazin-3-one | 1.77 g, yield 65% | ClC=1C=C(C=C(C1C)Cl)C=1C(CC(NN1)=O)O | C11H10Cl2N2O2
